US04409215
To a suspension of 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid (syn isomer) (0.52 g) in a mixture of methanol (3ml) and tetrahydrofuran (2 ml) was added conc. hydrochloric acid (0.18 g), and the mixture was stirred at 30° C. for 4 hours. After the reaction mixture was cooled and diluted with diisopropyl ether, the precipitated crystals were collected by filtration, washed with diisopropyl ether and then dried to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (0.45 g).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid | 0.52 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O)=NOC | C16H17N5O7S2
reactant | hydrochloric acid | 0.18 g | Cl | ClH
solvent | methanol | 3ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid hydrochloride | 0.45 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O)=NOC | InChI=1S/C15H17N5O6S2.ClH/c1-25-3-6-4-27-13-9(12(22)20(13)10(6)14(23)24)18-11(21)8(19-26-2)7-5-28-15(16)17-7;/h5,9,13H,3-4H2,1-2H3,(H2,16,17)(H,18,21)(H,23,24);1H/t9?,13-;/m1./s1
